US07919628B2
To a solution of 2.0 g 6-trifluoromethyl-pyridine-3-carboxaldehyde in 20 mL of dry THF under inert atmosphere at −78° C. was added dropwise 6 ml of MeMgCl (3 M in THF). This mixture was allowed to warm up to room temperature slowly. Aqueous ammonium chloride was added to reaction mixture. The whole was extracted with ethyl acetate. The organic phase was washed with brine, dried over sodium sulphate. Purification by flash chromatography (silica, haptane/ethyl acetate) provided 0.85 g of 1-(6-trifluoromethyl-pyridin-3-yl)-ethanol.

reactant | 6-trifluoromethyl-pyridine-3-carboxaldehyde | 2.0 g | FC(C1=CC=C(C=N1)C=O)(F)F | C7H4F3NO
reactant | MeMgCl | 3 M, 6 ml | C[Mg]Cl
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 1-(6-trifluoromethyl-pyridin-3-yl)-ethanol | 0.85 g | FC(C1=CC=C(C=N1)C(C)O)(F)F | C8H8F3NO
